US05308853
Methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(2-amino-4-thiazolyl)methyl]-2,5-dioxo -4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride
To a solution of methyl Z-4-[[2-butyl-5-[(1-butyl-2,5-dioxo-4-imidazolidinylidene) methyl]-1H-imidazol-1-yl]methyl]benzoate (0.569 g, 1.2 mmol) in DMF (5 mL) is added K2CO3 (2.0 g, 15 mmol). After stirring for 5 minutes 2-amino-4-chloromethylthiazole hydrochloride (0.222 g, 1.2 mmol) is added. The mixture is stirred for 48 hours and the filtered. The filtrate is concentrated in vacuo and dissolved in methylene chloride (30 mL). This solution is washed with water and drived over K2CO3 and charcoal. A viscous oil is obtained by evaporation of the solvents in vacuo. This oil is dissolved in ether and treated with ethereal HCl to precipitate a gum which is collected by decantation. This gum is recrystallized from 2-propanol/ether.

reactant | methyl Z-4-[[2-butyl-5-[(1-butyl-2,5-dioxo-4-imidazolidinylidene) methyl]-1H-imidazol-1-yl]methyl]benzoate | 1.2 mmol, 0.569 g | C(CCC)C=1N(C(=CN1)\C=C\1/NC(N(C1=O)CCCC)=O)CC1=CC=C(C(=O)OC)C=C1 | C24H30N4O4
reactant | K2CO3 | 15 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-amino-4-chloromethylthiazole hydrochloride | 1.2 mmol, 0.222 g | Cl.NC=1SC=C(N1)CCl
reactant | HCl | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Methyl Z-4-[[2-butyl-5-[[1-butyl-3-[(2-amino-4-thiazolyl)methyl]-2,5-dioxo -4-imidazolidinylidene]methyl]-1H-imidazol-1-yl]methyl]benzoate dihydrochloride | Cl.Cl.C(CCC)C=1N(C(=CN1)\C=C\1/N(C(N(C1=O)CCCC)=O)CC=1N=C(SC1)N)CC1=CC=C(C(=O)OC)C=C1 | InChI=1S/C28H34N6O4S.2ClH/c1-4-6-8-24-30-15-22(33(24)16-19-9-11-20(12-10-19)26(36)38-3)14-23-25(35)32(13-7-5-2)28(37)34(23)17-21-18-39-27(29)31-21;;/h9-12,14-15,18H,4-8,13,16-17H2,1-3H3,(H2,29,31);2*1H/b23-14-;;
